US07888352B2
To a solution of 2-chloro-4-morpholinothieno[2,3-d]pyrimidine-6-carbaldehyde (1.1 g, 3.9 mmol) in 1,2-dichloroethane (20 mL) was added 1-(2-hydroxyethyl)piperazine (0.7 mL, 5.4 mmol), and AcOH (3.9 mmol). After the reaction mixture stirred 10 min at room temperature, Na(OAc)3BH (4.6 mmol) was added then the mixture stirred 72 h at room temperature. The reaction was quenched by the addition of saturated aqueous NaHCO3. The organic layer was separated and the aqueous layer was extracted with CH2Cl2. The combined organics were dried over Na2SO4 and concentrated in vacuo. 2-(4-((2-chloro-4-morpholinothieno[2,3-d]pyrimidin-6-yl)methyl)piperazin-1-yl)ethanol was purified by silica gel chromatography (0-20% MeOH in CH2Cl2) to afford 2-(4-((2-chloro-4-morpholinothieno[2,3-d]pyrimidin-6-yl)methyl)piperazin-1-yl)ethanol (0.8 g). MS (Q1) 398 (M)+

reactant | 2-chloro-4-morpholinothieno[2,3-d]pyrimidine-6-carbaldehyde | 3.9 mmol, 1.1 g | ClC=1N=C(C2=C(N1)SC(=C2)C=O)N2CCOCC2 | C11H10ClN3O2S
reactant | 1-(2-hydroxyethyl)piperazine | 5.4 mmol, 0.7 mL | OCCN1CCNCC1 | C6H14N2O
reactant | AcOH | 3.9 mmol | CC(=O)O | C2H4O2
reactant | Na(OAc)3BH | 4.6 mmol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 2-(4-((2-chloro-4-morpholinothieno[2,3-d]pyrimidin-6-yl)methyl)piperazin-1-yl)ethanol | 0.8 g | ClC=1N=C(C2=C(N1)SC(=C2)CN2CCN(CC2)CCO)N2CCOCC2 | C17H24ClN5O2S
